US04457867
29 g of L-valine is dissolved in 250 ml of 1N aqueous NaOH, and to the solution is added water so that 400 ml of the solution is obtained. To the solution is added 150 ml of tetrahydrofuran. Then, while vigorously stirring at 10° C., to the solution are added 100 ml of Boc-Cl by 1/5 amounts at intervals of ten minutes, while 2N aqueous NaOH is added after every addition of Boc-Cl in such amount as will provide a pH value of about 8 to 9. Two hours later, the mixture is extracted with diethyl ether. The aqueous layer is acidified with an aqueous solution of 0.5 M aqueous citric acid, whereby an oily substance is precipitated. The precipitate is extracted with ethyl acetate. The extract is washed with a small amount of water, dried over Na2SP4, and concentrated under reduced pressure. To the concentrated extract is added petroleum ether, and the mixture is allowed to stand in a refrigerator, whereby a crystal is formed. The crystal is filtered off and dried. Thus, there is obtained 30 g of Boc-valine having a melting point of 78° C. The yield of the product is 55%.

reactant | L-valine | 29 g | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | water | O | H2O
reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
reactant | Boc-Cl | 100 ml | C(=O)(OC(C)(C)C)Cl | C5H9ClO2
solvent | NaOH | 1N, 250 ml | [OH-].[Na+]
solvent | NaOH | 2N | [OH-].[Na+]
product | Boc-valine | 30 g | C(=O)(OC(C)(C)C)N[C@@H](C(C)C)C(=O)O | C10H19NO4
